US08389764B2
1) tert-Butyl 2-amino-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propionate
660 mg of N-(diphenylmethylene)glycine tert-butyl ester (2.23 mmol, 1.0 equiv.) were dissolved in 15 ml of dry THF and cooled to 0° C. under argon. Then 2.23 ml of 1 M lithium hexamethyldisilazane (LiHMDS) solution in THF were added dropwise, and the mixture was stirred at 0° C. for 15 min. Subsequently, 642 mg of tert-butyl (5-bromomethylpyridin-2-yl)-carbamate (2.23 mmol, 1.0 equiv.) were added, and the mixture was stirred at 0° C. for 2 h. The mixture was quenched with 18 ml of sat. citric acid and stirred at RT for 1 h. The mixture was extracted with ethyl acetate (2×30 ml), and the organic phases were washed with 50 ml of 1 M HCl. The aqueous phases were combined and adjusted to pH 10 with 2M NaOH and then extracted 3× with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated. The residue was purified by flash chromatography on silica gel with heptane/ethyl acetate mixtures as eluent. 600 mg (80% yield) of the title compound were obtained as a colorless solid.

reactant | N-(diphenylmethylene)glycine tert-butyl ester | 2.23 mmol, 660 mg, 1.0 equiv. | C(C)(C)(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H21NO2
reactant | lithium hexamethyldisilazane | 1 M, 2.23 ml | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | tert-butyl (5-bromomethylpyridin-2-yl)-carbamate | 2.23 mmol, 642 mg, 1.0 equiv. | BrCC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C11H15BrN2O2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-Butyl 2-amino-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-propionate | 600 mg, 80% yield | NC(C(=O)OC(C)(C)C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C | C17H27N3O4
